US05155268
A stirred solution of 4-[(methylsulfonyl)amino]-γ-oxobenzenebutanoic acid as prepared in Preparation 2 (12.0 g, 0.044 mol) in DMF (100 ml) under N2 is cooled in an ice bath to 5° C. and treated with 1-hydroxybenzotriazole (5.94 g, 0.044 mol) and N,N'-dicyclohexylcarbodiimide (9.08 g, 0.044 mol). After 1 hour, ethylheptylamine (6.3 g, 0.044 mol) is added; after an additional 30 minutes the ice bath is removed and the mixture is kept at ambient temperature for 18 hours. The reaction mixture is filtered over a Celite filter aid and the filtrate is concentrated under vacuum. The resulting material is dissolved in CH2Cl2 ; washed with dilute HCl, NaHCO3 and brine; dried (Na2SO4) and concentrated. The residue is chromatographed over silica gel (1.25 kg) with 5% MeOH:1% NH4OH:CH2Cl2. The N-ethyl-N-heptyl-γ-oxo-4-[(methylsulfonyl)amino]benzenebutanamide thus obtained is crystallized from EtOAc:SSB to yield 10.77 g, mp 100°-102° C. and 2.32 g, mp 99°-101° C. The analytical sample has a mp 102°-103° C.

reactant | 4-[(methylsulfonyl)amino]-γ-oxobenzenebutanoic acid | CS(=O)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H13NO5S
reactant | 1-hydroxybenzotriazole | 0.044 mol, 5.94 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 0.044 mol, 9.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethylheptylamine | 0.044 mol, 6.3 g | C(C)NCCCCCCC | C9H21N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-ethyl-N-heptyl-γ-oxo-4-[(methylsulfonyl)amino]benzenebutanamide | C(C)N(C(CCC(C1=CC=C(C=C1)NS(=O)(=O)C)=O)=O)CCCCCCC | C20H32N2O4S
